R1 ( net58 net46)  R=8.9E2
T2 ( net46 net46 net36 0)  nfet  L=8.68E-6 W=9.37E-6
T3 ( net36 net33 0 0)  nfet  L=8.68E-6 W=9.37E-6
T4 ( net33 net33 0 0)  nfet  L=8.68E-6 W=9.37E-6
T5 ( net46 net46 net33 0)  nfet  L=8.68E-6 W=9.37E-6
T6 (net27 net16 net16 0) nfet L=8.30E-6 W=2.09E-6
R7 ( net4 net29)  R=1.8E4
T8 ( net29 net16 0 0)  nfet  L=5.95E-6 W=6.60E-6
T9 ( net39 net16 0 0)  nfet  L=5.95E-6 W=6.60E-6
T10 ( vdd! net29 net16 0)  nfet  L=5.95E-6 W=6.60E-6
R11 (net8 net13) R=9.4E2
R12 ( net14 net19)  R=1.5E6
T13 ( net19 net19 net24 vdd!)  pfet  L=3.54E-6 W=7.15E-6
T14 ( net24 net32 vdd! vdd!)  pfet  L=3.54E-6 W=7.15E-6
T15 ( net32 net32 vdd! vdd!)  pfet  L=3.54E-6 W=7.15E-6
T16 ( net22 net19 net32 vdd!)  pfet  L=3.54E-6 W=7.15E-6
C17 (net17 net50) C=8.1E-5
R18 ( net37 net50)  R=3.6E1
T19 ( net50 net28 0 0)  nfet  L=3.76E-6 W=8.45E-6
T20 ( net54 net28 0 0)  nfet  L=3.76E-6 W=8.45E-6
T21 ( vdd! net50 net28 0)  nfet  L=3.76E-6 W=8.45E-6
T22 (net13 0 0 0) nfet L=2.92E-6 W=1.93E-6
R23 (net5 net48) R=9.8E5
C24 (net56 net26) C=1.1E-13
T25 (net10 net14 net14 0) nfet L=4.48E-6 W=7.41E-6
R26 (vdd! net18) R=8.5E2
T27 (net9 net23 net23 0) pfet L=7.73E-6 W=0.73E-6
C28 (net2 net38) C=1.8E-13
T29 (net17 net43 net43 0) nfet L=1.48E-6 W=6.00E-6
T30 (net43 net25 net25 0) pfet L=3.41E-6 W=9.12E-6
C31 (net34 net44) C=5.3E-7
T32 (net34 0 0 0) nfet L=7.00E-6 W=1.73E-6
T33 (net40 net49 net49 0) nfet L=0.40E-6 W=9.51E-6
C34 (0 net22) C=9.8E-5
R35 (net23 net2) R=2.4E3
C36 (net12 net9) C=9.7E-11
C37 (net49 net25) C=0.2E-7
T38 (net21 vdd! vdd! 0) nfet L=2.66E-6 W=9.45E-6
C39 (net17 0) C=5.8E-12
R40 (net37 net54) R=9.2E1
T41 (net18 net5 net5 0) pfet L=2.87E-6 W=8.39E-6
T42 (vdd! net39 net39 0) pfet L=4.55E-6 W=3.80E-6
T43 (net9 net41 net41 0) pfet L=1.83E-6 W=0.14E-6
C44 (net40 net43) C=2.5E-9
T45 (net53 net3 net3 0) pfet L=7.30E-6 W=3.79E-6
R46 (net23 0) R=2.1E1
C47 (net18 net58) C=5.0E-5
T48 (net3 net25 net25 0) pfet L=7.16E-6 W=5.75E-6
C49 (net41 net39) C=2.9E-8
C50 (net13 net34) C=8.8E-8
T51 (net5 net11 net11 0) nfet L=2.11E-6 W=8.59E-6
C52 (net15 net40) C=7.8E-14
T53 (net7 net15 net15 0) nfet L=7.95E-6 W=9.19E-6
C54 (net31 net9) C=9.6E-13
C55 (net15 net1) C=9.0E-13
C56 (net43 net6) C=6.6E-11
R57 (0 vdd!) R=9.2E2
C58 (net7 net6) C=1.0E-9
T59 (net43 net12 net12 0) pfet L=1.45E-6 W=9.23E-6
T60 (net27 net22 net22 0) nfet L=6.16E-6 W=6.11E-6
R61 (net25 net13) R=1.2E5
T62 (net44 net26 net26 0) nfet L=7.97E-6 W=5.39E-6
T63 (net41 net38 net38 0) pfet L=6.37E-6 W=8.17E-6
C64 (net35 net52) C=7.3E-12
T65 (net42 net3 net3 0) pfet L=1.53E-6 W=4.86E-6
T66 (0 net56 net56 0) pfet L=0.98E-6 W=3.31E-6
T67 (net17 net34 net34 0) nfet L=1.42E-6 W=5.59E-6
T68 (net39 net3 net3 0) nfet L=1.04E-6 W=3.92E-6
C69 (net5 net8) C=4.3E-7
C70 (net10 net7) C=5.3E-8
C71 (net30 net37) C=9.0E-8
T72 (net15 net56 net56 0) nfet L=6.37E-6 W=2.01E-6
R73 (net40 net58) R=9.1E6
R74 (net40 net14) R=5.6E6
C75 (net39 net4) C=3.4E-12
R76 (net7 net25) R=7.2E1
C77 (net20 net54) C=8.6E-6
C78 (net20 net41) C=6.3E-13
T79 (net13 net13 net13 0) pfet L=3.34E-6 W=9.57E-6
T80 (net42 net27 net27 0) pfet L=8.38E-6 W=6.35E-6
T81 (net11 0 0 0) pfet L=0.69E-6 W=6.07E-6
T82 (net49 net35 net35 0) pfet L=9.86E-6 W=6.59E-6
R83 (net17 net31) R=3.8E3
T84 (net6 net9 net9 0) nfet L=2.30E-6 W=5.43E-6
T85 (0 net31 net31 0) pfet L=5.56E-6 W=0.75E-6
R86 (net35 net4) R=7.9E6
T87 (0 net40 net40 0) pfet L=8.70E-6 W=8.40E-6
C88 (net57 net8) C=7.2E-8
C89 (net4 net7) C=5.9E-5
C90 (net34 net37) C=4.4E-9
T91 (net10 vdd! vdd! 0) pfet L=3.00E-6 W=5.58E-6
T92 (net4 0 0 0) nfet L=9.45E-6 W=5.54E-6
R93 (net48 net44) R=9.7E5
R94 (net30 net34) R=5.0E0
T95 (net25 net1 net1 0) nfet L=5.51E-6 W=7.77E-6
R96 (vdd! net49) R=4.5E2
T97 (net30 net15 net15 0) pfet L=5.60E-6 W=3.65E-6
T98 (0 net18 net18 0) pfet L=5.73E-6 W=9.07E-6
T99 (net55 net35 net35 0) pfet L=0.60E-6 W=0.77E-6
C100 (net37 net22) C=7.5E-12
T101 (net9 net44 net44 0) pfet L=3.27E-6 W=8.20E-6
T102 (net41 net15 net15 0) nfet L=8.95E-6 W=5.32E-6
T103 (vdd! net42 net42 0) nfet L=0.90E-6 W=7.34E-6
T104 (net3 net31 net31 0) nfet L=5.09E-6 W=9.27E-6
T105 (net49 net25 net25 0) pfet L=5.73E-6 W=8.97E-6
C106 (net47 net30) C=1.8E-8
T107 (net43 net4 net4 0) nfet L=4.32E-6 W=3.45E-6
R108 (net52 0) R=5.9E6
R109 (net13 net49) R=2.8E2
T110 (net7 net27 net27 0) pfet L=1.56E-6 W=4.02E-6
C111 (net34 net15) C=6.3E-7
T112 (net20 net34 net34 0) nfet L=3.93E-6 W=2.02E-6
T113 (net7 net15 net15 0) nfet L=9.14E-6 W=7.26E-6
R114 (net22 net1) R=8.6E1
R115 (vdd! net27) R=1.9E0
C116 (net18 net2) C=1.8E-12
T117 (net13 net52 net52 0) pfet L=8.57E-6 W=2.71E-6
C118 (net8 net40) C=1.1E-12
T119 (net37 net21 net21 0) nfet L=7.46E-6 W=6.33E-6
C120 (net47 net1) C=3.5E-8
C121 (net23 net55) C=6.7E-6
T122 (vdd! net35 net35 0) nfet L=9.17E-6 W=3.90E-6
R123 (vdd! net53) R=8.7E0
T124 (net49 net39 net39 0) pfet L=2.08E-6 W=1.19E-6
T125 (net59 net45 net45 0) pfet L=8.61E-6 W=9.01E-6
T126 (net8 net56 net56 0) nfet L=3.00E-6 W=0.87E-6
T127 (net59 net35 net35 0) pfet L=6.22E-6 W=0.96E-6
R128 (net26 net51) R=2.7E2
R129 (net45 net7) R=1.2E0
T130 (vdd! vdd! vdd! 0) pfet L=5.28E-6 W=6.74E-6
C131 (net40 net34) C=2.3E-8
R132 (net45 net11) R=8.1E1
C133 (net40 net12) C=5.0E-12
T134 (net15 net30 net30 0) nfet L=9.74E-6 W=3.89E-6
T135 (net10 net39 net39 0) nfet L=5.93E-6 W=4.17E-6
T136 (net58 net8 net8 0) pfet L=2.37E-6 W=4.03E-6
T137 (net1 vdd! vdd! 0) nfet L=9.83E-6 W=9.81E-6
R138 (net21 net15) R=5.0E2
R139 (net53 net25) R=9.6E6
T140 (net17 net30 net30 0) pfet L=6.28E-6 W=9.35E-6
R141 (net41 net38) R=2.8E4
T142 (net6 vdd! vdd! 0) pfet L=0.56E-6 W=5.55E-6
T143 (net15 net58 net58 0) nfet L=0.72E-6 W=3.72E-6
R144 (net39 net10) R=5.5E2
R145 (net12 net3) R=4.8E6
C146 (net40 net11) C=7.3E-11
T147 (vdd! net58 net58 0) nfet L=8.29E-6 W=7.81E-6
R148 (net13 net57) R=5.9E4
T149 (net27 net5 net5 0) nfet L=4.78E-6 W=8.83E-6
T150 (net26 net35 net35 0) pfet L=3.75E-6 W=3.99E-6
C151 (net20 net1) C=9.8E-9
T152 (net39 net59 net59 0) nfet L=8.06E-6 W=5.79E-6
R153 (net6 net21) R=2.9E0
T154 (net23 net30 net30 0) nfet L=2.60E-6 W=9.57E-6
R155 (net57 net51) R=1.8E0
R156 (net18 0) R=9.7E1
C157 (vdd! 0) C=0.9E-6
C158 (net31 vdd!) C=6.5E-12
R159 (vdd! net39) R=7.7E1
C160 (net15 net59) C=4.1E-6
C161 (net56 net54) C=4.1E-14
T162 (net55 net41 net41 0) nfet L=7.51E-6 W=8.79E-6
C163 (net9 net56) C=0.2E-7
R164 (net25 net58) R=8.8E5
R165 (0 net45) R=2.0E6
R166 (net45 net48) R=4.9E3
C167 (net11 net34) C=6.4E-8
C168 (net5 net41) C=0.5E-5
T169 (net14 net27 net27 0) nfet L=7.90E-6 W=1.71E-6
R170 (net34 net31) R=9.7E2
T171 (net59 net58 net58 0) pfet L=4.17E-6 W=1.05E-6
T172 (net7 net18 net18 0) pfet L=0.81E-6 W=9.88E-6
T173 (net4 vdd! vdd! 0) pfet L=9.10E-6 W=4.56E-6
R174 (net43 0) R=4.6E6
T175 (net43 net1 net1 0) nfet L=1.42E-6 W=8.02E-6
T176 (net30 net5 net5 0) pfet L=9.36E-6 W=6.94E-6
C177 (net47 net22) C=2.1E-8
T178 (net23 net6 net6 0) nfet L=0.41E-6 W=6.37E-6
T179 (net37 net25 net25 0) nfet L=1.14E-6 W=9.49E-6
C180 (vdd! net18) C=1.7E-7
C181 (net56 net43) C=8.4E-13
R182 (net27 vdd!) R=8.9E0
C183 (net15 net12) C=6.3E-9
R184 (net34 net4) R=6.8E3
R185 (net15 net4) R=1.1E2
C186 (vdd! 0) C=0.3E-13
T187 (net15 net22 net22 0) pfet L=2.71E-6 W=3.29E-6
R188 (vdd! net35) R=9.5E4

