R1 ( net78 net147)  R=4.2E5
T2 ( net147 net30 vdd! vdd!)  pfet  L=1.93E-6 W=7.81E-6
T3 ( net129 net30 vdd! vdd!)  pfet  L=1.93E-6 W=7.81E-6
T4 ( net48 net147 net129 vdd!)  pfet  L=1.93E-6 W=7.81E-6
T5 (vdd! net15 net15 0) pfet L=9.28E-6 W=2.92E-6
T6 ( net3 net3 0 0)  nfet  L=1.70E-6 W=7.39E-6
T7 ( net62 net3 0 0)  nfet  L=1.70E-6 W=7.39E-6
R8 ( net62 net70)  R=6.0E1
R9 (net66 net52) R=3.7E5
R10 ( net11 net92)  R=8.8E0
T11 ( net92 net92 net58 vdd!)  pfet  L=5.38E-6 W=3.05E-6
T12 ( net58 net125 vdd! vdd!)  pfet  L=5.38E-6 W=3.05E-6
T13 ( net125 net125 vdd! vdd!)  pfet  L=5.38E-6 W=3.05E-6
T14 ( net131 net92 net125 vdd!)  pfet  L=5.38E-6 W=3.05E-6
T15 (net60 net138 net138 0) nfet L=6.55E-6 W=8.33E-6
C16 (net136 net33) C=7.0E-10
R17 ( net2 net80)  R=0.5E2
T18 ( net80 net42 vdd! vdd!)  pfet  L=2.64E-6 W=4.28E-6
T19 ( net128 net42 vdd! vdd!)  pfet  L=2.64E-6 W=4.28E-6
T20 ( 0 net80 net42 vdd!)  pfet  L=2.64E-6 W=4.28E-6
C21 (net142 net141) C=4.8E-7
T22 (net55 net53 net53 0) nfet L=5.04E-6 W=8.42E-6
R23 (net51 net88) R=0.8E0
R24 (net54 net138) R=4.6E6
T25 (0 net33 net33 0) nfet L=3.09E-6 W=6.24E-6
R26 (net139 0) R=4.8E4
R27 (net51 net130) R=7.7E1
R28 (net133 net45) R=3.1E5
C29 (net97 net54) C=1.6E-5
R30 (net126 net69) R=1.6E1
T31 (net45 net8 net8 0) pfet L=5.08E-6 W=9.89E-6
C32 (net46 net119) C=1.6E-13
T33 (net14 0 0 0) pfet L=9.88E-6 W=9.53E-6
R34 (net87 net3) R=9.2E4
R35 (net69 net1) R=3.4E0
T36 (net31 net39 net39 0) nfet L=5.92E-6 W=8.81E-6
C37 (net79 net60) C=0.5E-13
R38 (net143 net59) R=7.3E2
T39 (net111 net132 net132 0) nfet L=1.02E-6 W=2.06E-6
R40 (net29 net91) R=5.3E1
T41 (net70 net40 net40 0) nfet L=7.93E-6 W=8.44E-6
R42 (net14 net81) R=3.8E4
T43 (net145 net143 net143 0) nfet L=0.39E-6 W=2.70E-6
C44 (0 net35) C=3.7E-7
R45 (net131 net3) R=6.3E1
T46 (net4 net64 net64 0) nfet L=5.87E-6 W=9.03E-6
R47 (net116 net36) R=4.0E6
T48 (net40 net111 net111 0) pfet L=3.33E-6 W=6.84E-6
T49 (net41 vdd! vdd! 0) nfet L=7.24E-6 W=6.30E-6
C50 (net143 net48) C=1.4E-12
C51 (net87 0) C=8.1E-7
T52 (net85 net130 net130 0) nfet L=6.73E-6 W=9.65E-6
T53 (net21 net21 net21 0) pfet L=9.70E-6 W=6.65E-6
T54 (net87 net13 net13 0) nfet L=0.68E-6 W=2.15E-6
R55 (net145 net13) R=9.6E2
R56 (net84 net63) R=5.8E6
R57 (net18 net84) R=3.1E5
T58 (net133 net76 net76 0) pfet L=0.68E-6 W=1.93E-6
C59 (net3 net38) C=1.4E-13
C60 (net73 net106) C=7.3E-10
R61 (net122 net112) R=9.5E0
C62 (0 net127) C=9.9E-11
T63 (net10 net18 net18 0) pfet L=6.47E-6 W=8.39E-6
T64 (net73 net41 net41 0) nfet L=0.54E-6 W=7.10E-6
T65 (vdd! net32 net32 0) nfet L=0.88E-6 W=6.06E-6
T66 (0 net69 net69 0) nfet L=1.95E-6 W=5.25E-6
T67 (net127 net111 net111 0) nfet L=5.81E-6 W=4.72E-6
C68 (net33 net110) C=1.3E-5
R69 (net15 net144) R=6.5E3
T70 (net141 net81 net81 0) pfet L=5.67E-6 W=7.25E-6
C71 (net95 net1) C=9.6E-9
T72 (net18 net128 net128 0) nfet L=9.43E-6 W=4.31E-6
R73 (net38 net31) R=8.4E2
R74 (net108 net11) R=0.7E0
C75 (net28 net133) C=9.6E-8
R76 (net8 net97) R=8.4E5
T77 (net36 net44 net44 0) nfet L=3.41E-6 W=3.42E-6
C78 (net106 net109) C=2.9E-13
R79 (net55 net132) R=1.4E4
T80 (net63 net115 net115 0) pfet L=9.60E-6 W=1.32E-6
C81 (net70 net123) C=8.4E-7
C82 (net46 net37) C=1.7E-14
T83 (net27 net8 net8 0) nfet L=4.17E-6 W=6.68E-6
C84 (net7 net67) C=7.7E-9
T85 (vdd! net69 net69 0) pfet L=9.87E-6 W=6.06E-6
C86 (net139 net18) C=6.0E-9
T87 (0 0 0 0) nfet L=2.53E-6 W=6.63E-6
R88 (net54 net104) R=9.6E2
R89 (net6 net8) R=3.1E5
C90 (net79 net139) C=6.2E-5
T91 (net139 net61 net61 0) nfet L=8.47E-6 W=8.56E-6
C92 (net6 net5) C=2.9E-6
R93 (net71 net84) R=1.7E5
R94 (net119 net69) R=0.7E0
R95 (net31 net130) R=4.3E0
T96 (net44 net16 net16 0) pfet L=4.00E-6 W=9.58E-6
C97 (net53 0) C=6.9E-14
T98 (net96 net120 net120 0) nfet L=5.43E-6 W=0.21E-6
T99 (net110 net73 net73 0) nfet L=6.09E-6 W=4.68E-6
T100 (net140 vdd! vdd! 0) pfet L=0.92E-6 W=5.62E-6
T101 (net4 net44 net44 0) pfet L=9.63E-6 W=9.13E-6
R102 (net17 net107) R=0.7E1
T103 (net59 net68 net68 0) nfet L=9.88E-6 W=7.96E-6
T104 (net60 net78 net78 0) nfet L=8.57E-6 W=6.41E-6
C105 (net56 net81) C=4.1E-8
T106 (net20 net64 net64 0) nfet L=3.27E-6 W=1.70E-6
C107 (net114 net104) C=7.1E-5
T108 (net86 net26 net26 0) pfet L=7.95E-6 W=7.01E-6
C109 (net55 net3) C=4.6E-7
T110 (net144 net144 net144 0) nfet L=0.67E-6 W=0.18E-6
T111 (net94 net16 net16 0) pfet L=3.75E-6 W=8.48E-6
R112 (net149 net29) R=9.0E6
C113 (net94 net84) C=6.1E-11
R114 (net142 net11) R=9.5E5
T115 (net70 net27 net27 0) nfet L=9.39E-6 W=2.18E-6
R116 (net60 net21) R=4.6E4
T117 (net128 vdd! vdd! 0) pfet L=4.14E-6 W=5.71E-6
T118 (net36 net41 net41 0) pfet L=8.60E-6 W=7.02E-6
C119 (net67 net95) C=3.7E-13
T120 (vdd! net70 net70 0) pfet L=8.99E-6 W=9.71E-6
T121 (net68 net45 net45 0) nfet L=1.38E-6 W=1.36E-6
T122 (net10 net97 net97 0) pfet L=2.00E-6 W=7.97E-6
R123 (net44 net91) R=8.3E2
C124 (net134 net61) C=2.9E-6
R125 (net28 vdd!) R=2.2E6
R126 (net137 net89) R=6.1E5
C127 (vdd! net44) C=3.6E-12
T128 (net86 net127 net127 0) pfet L=5.83E-6 W=3.99E-6
C129 (0 net127) C=6.7E-11
C130 (net18 net145) C=4.6E-6
C131 (net76 net33) C=6.1E-6
T132 (0 net25 net25 0) nfet L=8.83E-6 W=5.77E-6
C133 (0 net137) C=1.0E-6
C134 (net98 net144) C=0.2E-9
T135 (net98 net39 net39 0) pfet L=2.32E-6 W=2.98E-6
R136 (net56 net50) R=4.8E6
C137 (net56 net136) C=4.5E-8
T138 (net91 net105 net105 0) pfet L=0.34E-6 W=7.09E-6
T139 (net59 net13 net13 0) nfet L=5.44E-6 W=7.92E-6
R140 (net71 net131) R=6.1E6
T141 (net24 net111 net111 0) nfet L=6.12E-6 W=5.89E-6
T142 (net26 net44 net44 0) nfet L=2.78E-6 W=3.55E-6
T143 (net118 net26 net26 0) pfet L=5.72E-6 W=4.62E-6
C144 (net59 net149) C=1.3E-5
T145 (net22 net109 net109 0) pfet L=4.07E-6 W=1.15E-6
R146 (net148 net21) R=8.4E2
R147 (net143 net81) R=8.0E3
T148 (net66 net142 net142 0) nfet L=8.79E-6 W=0.55E-6
C149 (net130 net64) C=5.2E-6
T150 (net101 net64 net64 0) pfet L=7.86E-6 W=2.55E-6
R151 (0 net107) R=8.9E0
R152 (net13 net127) R=3.4E6
C153 (vdd! net79) C=7.9E-12
R154 (net27 net49) R=2.7E0
T155 (net28 net91 net91 0) nfet L=3.78E-6 W=1.14E-6
T156 (net60 net109 net109 0) nfet L=1.64E-6 W=6.48E-6
R157 (net10 net134) R=9.7E2
C158 (net145 0) C=2.3E-14
C159 (net37 net128) C=8.5E-13
T160 (net36 net5 net5 0) nfet L=3.19E-6 W=1.56E-6
R161 (net48 0) R=0.5E5
T162 (net36 net5 net5 0) pfet L=5.71E-6 W=1.00E-6
R163 (net123 net25) R=1.1E3
T164 (net20 net132 net132 0) pfet L=3.34E-6 W=3.83E-6
T165 (vdd! net69 net69 0) pfet L=8.27E-6 W=6.96E-6
T166 (net6 net53 net53 0) pfet L=7.17E-6 W=3.47E-6
T167 (net10 net70 net70 0) pfet L=9.12E-6 W=0.40E-6
T168 (net52 net6 net6 0) nfet L=5.83E-6 W=6.15E-6
T169 (net59 0 0 0) nfet L=2.40E-6 W=8.59E-6
T170 (net108 net114 net114 0) nfet L=9.28E-6 W=2.43E-6
T171 (net21 vdd! vdd! 0) pfet L=4.62E-6 W=6.07E-6
T172 (net78 net91 net91 0) pfet L=7.92E-6 W=5.98E-6
T173 (net65 net99 net99 0) nfet L=9.29E-6 W=6.47E-6

