R1 ( net28 net7)  R=7.4E4
T2 ( net7 net7 0 0)  nfet  L=1.07E-6 W=6.13E-6
T3 ( net29 net7 0 0)  nfet  L=1.07E-6 W=6.13E-6
C4 (net18 net1) C=2.0E-7
R5 (net5 net8) R=2.9E3
T6 (net6 net24 net24 0) pfet L=6.45E-6 W=9.28E-6
C7 (net11 net31) C=1.0E-12
C8 (vdd! net20) C=2.0E-5
R9 ( net30 net15)  R=5.3E6
T10 ( net15 net26 0 0)  nfet  L=5.53E-6 W=4.63E-6
T11 ( net4 net26 0 0)  nfet  L=5.53E-6 W=4.63E-6
T12 ( net30 net15 net4 0)  nfet  L=5.53E-6 W=4.63E-6
C13 (net24 net11) C=1.7E-14
R14 ( net2 net14)  R=2.8E6
T15 ( net14 net20 vdd! vdd!)  pfet  L=4.72E-6 W=7.56E-6
T16 ( net8 net20 vdd! vdd!)  pfet  L=4.72E-6 W=7.56E-6
T17 ( 0 net14 net20 vdd!)  pfet  L=4.72E-6 W=7.56E-6
T18 (net17 net10 net10 0) pfet L=8.76E-6 W=6.33E-6
T19 (vdd! net2 net2 0) nfet L=6.15E-6 W=8.28E-6
T20 (net9 net21 net21 0) nfet L=6.70E-6 W=2.58E-6
T21 (net12 net9 net9 0) pfet L=3.76E-6 W=7.01E-6
C22 (net19 net3) C=0.9E-10
R23 ( net28 net29)  R=9.0E5
T24 ( net29 net9 vdd! vdd!)  pfet  L=1.27E-6 W=8.05E-6
T25 ( net19 net9 vdd! vdd!)  pfet  L=1.27E-6 W=8.05E-6
T26 ( 0 net29 net9 vdd!)  pfet  L=1.27E-6 W=8.05E-6
T27 (net27 net16 net16 0) pfet L=1.26E-6 W=6.12E-6
T28 (net22 net31 net31 0) pfet L=9.21E-6 W=8.32E-6
T29 (0 net5 net5 0) pfet L=8.46E-6 W=2.49E-6
C30 (net18 0) C=6.5E-9
T31 (0 net12 net12 0) pfet L=4.34E-6 W=6.45E-6
R32 (net16 net22) R=3.5E4
C33 (net28 net1) C=0.6E-6
T34 (net18 net8 net8 0) pfet L=9.66E-6 W=7.58E-6
T35 (net30 net25 net25 0) nfet L=5.63E-6 W=4.94E-6
T36 (net13 net12 net12 0) pfet L=1.33E-6 W=4.34E-6
C37 (net19 net3) C=0.8E-10
R38 (net24 net30) R=0.2E1
C39 (0 net12) C=8.5E-11
T40 (net31 net18 net18 0) pfet L=6.02E-6 W=7.45E-6
R41 (net23 net22) R=5.4E2
R42 (net25 net21) R=1.7E0
R43 (vdd! net16) R=4.6E3
T44 (net22 net31 net31 0) pfet L=7.03E-6 W=5.01E-6
R45 (net19 net16) R=1.2E2
C46 (net12 net1) C=9.1E-6
T47 (net30 net6 net6 0) nfet L=7.41E-6 W=9.13E-6
T48 (net28 net10 net10 0) nfet L=7.87E-6 W=0.94E-6
T49 (net21 net1 net1 0) nfet L=3.78E-6 W=6.69E-6
C50 (net28 net18) C=7.8E-10
T51 (net2 net16 net16 0) pfet L=6.24E-6 W=9.53E-6
R52 (net11 net23) R=2.6E0
T53 (net6 vdd! vdd! 0) nfet L=4.23E-6 W=8.18E-6
C54 (net23 net22) C=6.8E-14
T55 (net28 net27 net27 0) nfet L=8.83E-6 W=2.99E-6
R56 (net1 net6) R=9.5E5
C57 (net11 net17) C=9.3E-8
C58 (net23 net16) C=3.2E-11
T59 (net1 net6 net6 0) nfet L=7.22E-6 W=1.90E-6
T60 (net3 net10 net10 0) pfet L=6.18E-6 W=3.91E-6
T61 (net23 net30 net30 0) pfet L=0.55E-6 W=1.69E-6
T62 (net8 net21 net21 0) nfet L=0.82E-6 W=4.48E-6
T63 (net17 net2 net2 0) nfet L=2.51E-6 W=0.84E-6
R64 (net28 net8) R=5.0E4
C65 (0 net21) C=6.7E-9

