T1 (net11 net31 net31 0) pfet L=3.39E-6 W=5.25E-6
R2 ( net39 net31)  R=4.4E3
T3 ( net31 net31 vdd! vdd!)  pfet  L=2.49E-6 W=6.40E-6
T4 ( net39 net31 vdd! vdd!)  pfet  L=2.49E-6 W=6.40E-6
T5 (net29 net7 net7 0) pfet L=2.33E-6 W=4.57E-6
R6 (net23 net33) R=7.0E0
R7 ( vdd! net24)  R=5.9E0
T8 ( net24 net22 vdd! vdd!)  pfet  L=8.86E-6 W=2.67E-6
T9 ( net3 net22 vdd! vdd!)  pfet  L=8.86E-6 W=2.67E-6
T10 ( net9 net24 net3 vdd!)  pfet  L=8.86E-6 W=2.67E-6
C11 (net33 net26) C=1.7E-6
T12 (vdd! net37 net37 0) nfet L=9.94E-6 W=3.25E-6
R13 (0 net30) R=4.0E0
C14 (net29 net35) C=3.0E-6
R15 ( net29 net37)  R=0.8E2
T16 ( net37 net37 0 0)  nfet  L=5.51E-6 W=6.68E-6
T17 ( net39 net37 0 0)  nfet  L=5.51E-6 W=6.68E-6
T18 (net21 net17 net17 0) pfet L=0.57E-6 W=1.31E-6
R19 ( net4 net20)  R=8.2E6
T20 ( net20 net20 0 0)  nfet  L=1.28E-6 W=8.78E-6
T21 ( net34 net20 0 0)  nfet  L=1.28E-6 W=8.78E-6
R22 (net15 net16) R=8.1E0
R23 (net2 net25) R=9.3E0
C24 (net14 net29) C=6.2E-13
T25 (net12 net7 net7 0) pfet L=5.31E-6 W=1.39E-6
T26 (net30 net18 net18 0) pfet L=6.44E-6 W=9.72E-6
R27 (net10 net2) R=7.4E5
T28 (net12 net27 net27 0) pfet L=1.06E-6 W=1.22E-6
T29 (net27 net14 net14 0) pfet L=0.59E-6 W=7.87E-6
R30 (net6 net13) R=6.3E5
C31 (net13 net29) C=9.4E-11
T32 (net17 net35 net35 0) nfet L=4.19E-6 W=6.69E-6
R33 (vdd! net5) R=9.1E6
C34 (net9 net36) C=0.7E-11
R35 (net26 net8) R=8.7E2
R36 (net32 0) R=5.8E3
C37 (net16 net29) C=9.0E-10
R38 (net17 0) R=2.6E0
R39 (net4 net5) R=6.3E2
R40 (net29 net9) R=1.8E6
T41 (net39 net29 net29 0) pfet L=3.87E-6 W=9.98E-6

